US06022906
21b 2-Benzyl-1-[4-(3-bromo-propoxy)-3-methoxy-phenyl]-2-dimethylamino-butan-1-one
14.3 g (37.1 mmol) of 2-benzyl-2-dimethylamino-1-[4-(3-hydroxy-propoxy)-3-methoxy-phenyl]-butan-1-one are dissolved in 200 ml of methylene chloride, and 10.7 g (40.8 mmol) of triphenylphosphine and 13.5 g (40.8 mmol) of carbon tetrabromide are added at 0° C. successively. The solution is stirred at 0° C. for 0.5 h. Then the solution is concentrated to give the crude product, which is purified by column chromatography on silica gel with ethyl acetate-hexane (20:80) as an eluent. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm] 0.69 (t, 3H), 1.83-1.92 (m, 1H), 2.03-2.13 (m, 1H), 2.38 (s, 6H), 2.38-2.45 (m, 2H), 3.17-3.25 (m, 2H), 3.64 (t, 2H), 3.88 (s, 3H), 4.22 (t, 2H), 6.86 (d, 1H), 7.15-7.28 (m, 5H), 7.93 (d, 1H), 8.20 (dd, 1H).

reactant | 2-benzyl-2-dimethylamino-1-[4-(3-hydroxy-propoxy)-3-methoxy-phenyl]-butan-1-one | 37.1 mmol, 14.3 g | C(C1=CC=CC=C1)C(C(=O)C1=CC(=C(C=C1)OCCCO)OC)(CC)N(C)C | C23H31NO4
reactant | triphenylphosphine | 40.8 mmol, 10.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 40.8 mmol, 13.5 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Benzyl-1-[4-(3-bromo-propoxy)-3-methoxy-phenyl]-2-dimethylamino-butan-1-one | C(C1=CC=CC=C1)C(C(=O)C1=CC(=C(C=C1)OCCCBr)OC)(CC)N(C)C | C23H30BrNO3
